US08242145B2
Step 5: {4-Methoxy-3-[2-((4S,5R)-4-methyl-2-oxo-5-phenyl-oxazolidin-3-ylmethyl)-4-trifluoromethyl-phenoxy]-phenyl}-acetic acid
To {4-methoxy-3-[2-((4S,5R)-4-methyl-2-oxo-5-phenyl-oxazolidin-3-ylmethyl)-4-trifluoromethyl-phenoxy]-phenyl}-acetic acid ethyl ester (0.08 g, 0.15 mmol) in MeOH (4 mL) was added 1N aqueous lithium hydroxide (2 mL), and the reaction was stirred at 60° C. overnight. The mixture was acidified with 1N aqueous HCl, and the aqueous layer was extracted twice with EtOAc. The combined organic layers were dried over MgSO4, filtered, and concentrated, and the residue was purified by preparative HPLC to give the desired product.

reactant | {4-methoxy-3-[2-((4S,5R)-4-methyl-2-oxo-5-phenyl-oxazolidin-3-ylmethyl)-4-trifluoromethyl-phenoxy]-phenyl}-acetic acid ethyl ester | 0.15 mmol, 0.08 g | C(C)OC(CC1=CC(=C(C=C1)OC)OC1=C(C=C(C=C1)C(F)(F)F)CN1C(O[C@@H]([C@@H]1C)C1=CC=CC=C1)=O)=O | C29H28F3NO6
reactant | lithium hydroxide | 1N, 2 mL | [OH-].[Li+]
reactant | HCl | 1N | Cl | ClH
solvent | MeOH | 4 mL | CO | CH4O
product | {4-Methoxy-3-[2-((4S,5R)-4-methyl-2-oxo-5-phenyl-oxazolidin-3-ylmethyl)-4-trifluoromethyl-phenoxy]-phenyl}-acetic acid | COC1=C(C=C(C=C1)CC(=O)O)OC1=C(C=C(C=C1)C(F)(F)F)CN1C(O[C@@H]([C@@H]1C)C1=CC=CC=C1)=O | C27H24F3NO6
